*
* 2n6782 - Extracted from 'uncategorized/spice_complete/IR.LIB'
*
.SUBCKT 2N6782 1 2 3
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not inclUDed. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+ VTO=3.72679 LAMBDA=0.0010228 KP=4.45837
+ CGSO=1.69987e-06 CGDO=5.31685e-08
RS 8 3 0.233311
D1 3 1 MD
.MODEL MD D IS=1.33524e-10 RS=0.044797 N=1.30027 BV=100
+ IBV=0.001 EG=1 XTI=1 TT=0
+ CJO=2.66373e-10 VJ=1.35575 M=0.464649 FC=0.5
RDS 3 1 3.2e+06
RD 9 1 0.0410006
RG 2 7 36.2728
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+ CJO=2.03413e-10 VJ=0.500077 M=0.75584 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.402735 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.10796e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.402735
.ENDS 2N6782

